US04166120
3 ml of acetyl chloride in 10 ml of chloroform is added dropwise to a stirred suspension of 6.0 g of 2,3-dihydrospiro[benzofuran-2,4'-piperidine], Example 1C, and 14.0 g of sodium bicarbonate in 75 ml of chloroform. After total addition, the reaction mixture is successively stirred at ambient temperature for 16 hours, filtered, washed sequentially with water, dilute hydrochloric acid and a saturated sodium chloride solution, dried and the solvent removed under reduced pressure, leaving a residue which solidifies upon standing. The solid is recrystallized twice from hexane to give the product, 2,3-dihydro-1'-acetylspiro[benzofuran-2,4'-piperidine], mp 94°-97° C.

reactant | acetyl chloride | 3 ml | C(C)(=O)Cl | C2H3ClO
reactant | 2,3-dihydrospiro[benzofuran-2,4'-piperidine] | 6.0 g | N1CCC2(CC1)OC1=C(C2)C=CC=C1 | C12H15NO
reactant | sodium bicarbonate | 14.0 g | C([O-])(O)=O.[Na+]
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 75 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,3-dihydro-1'-acetylspiro[benzofuran-2,4'-piperidine] | C(C)(=O)N1CCC2(CC1)OC1=C(C2)C=CC=C1 | C14H17NO2
